US04579869
A stirred solution of 6,7-dichloro-2-cyclopentyl-2,3-dihydro-5-(2-hydroxyethylamino)-2-methyl-1H-inden-1-one (2.0 g) in acetone (50 ml) is treated with Jones Reagent (3 ml) at 25° C. over a 1 hour period. The reaction mixture is allowed to stand overnight then filtered free of chromium salts. The acetone is evaporated in vacuo and the 5-amino-6,7-dichloro-2-cyclopentyl-2,3-dihydro-2- methyl-1H-inden-1-one thus obtained (800 mg) is used in Step D without further purification.

reactant | 6,7-dichloro-2-cyclopentyl-2,3-dihydro-5-(2-hydroxyethylamino)-2-methyl-1H-inden-1-one | 2.0 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)NCCO | C17H21Cl2NO2
reactant | Jones Reagent | 3 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 5-amino-6,7-dichloro-2-cyclopentyl-2,3-dihydro-2- methyl-1H-inden-1-one | NC=1C=C2CC(C(C2=C(C1Cl)Cl)=O)(C)C1CCCC1 | C15H17Cl2NO
